US07176195B2
G4. 6-(tert-Butyloxycarbonylaminomethyl)nicotinic acid
To a solution of methyl 6-(tert-butyloxycarbonylaminomethyl)nicotinate from Example G3 (1.56 g, 5.84 mmol) in THF (20 ml) and water (5 ml) was added lithium hydroxide monohydrate (0.37 g, 8.76 mmol). The mixture was stirred at room temperature for 18 h and then concentrated in vacuo. The aqueous residue was acidified by addition of 1M citric acid solution and extracted with chloroform/IPA (3 times). The combined organic extracts were washed with brine, dried over MgSO4, and evaporated in vacuo to give a white solid; yield 1.38 g (94%).

reactant | methyl 6-(tert-butyloxycarbonylaminomethyl)nicotinate | C(C)(C)(C)OC(=O)NCC1=NC=C(C(=O)OC)C=C1 | C13H18N2O4
reactant | water | 5 ml | O | H2O
reactant | lithium hydroxide monohydrate | 8.76 mmol, 0.37 g | O.[OH-].[Li+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-(tert-Butyloxycarbonylaminomethyl)nicotinic acid | C(C)(C)(C)OC(=O)NCC1=NC=C(C(=O)O)C=C1 | C12H16N2O4
